US07906537B2
(4-Amino-3-methylphenyl)-(4-trifluoromethylbenzyl)-carbamic acid tert-butyl ester
A solution of Na2S2O4 (3.00 g, 17.2 mmol) in water (20 mL) was added to a solution of (3-methyl-4-nitrophenyl)-(4-trifluoromethylbenzyl)-carbamic acid tert-butyl ester (1.41 g, 3.44 mmol) in tetrahydrofuran (20 mL), and the resulting mixture was stirred for 20 hours at +55° C. After cooling to room temperature, the water phase was saturated with potassium carbonate, the organic layer was separated, and the aqueous layer was extracted with ethyl acetate (2×20 mL). The combined organic layers were dried over sodium sulfate, solvents were evaporated, and the residue was purified on a FlashMaster system (silica, eluted with heptane/ethyl acetate mixtures) to yield the title compound as a white solid (1.09 g, 83%).

reactant | Na2S2O4 | 17.2 mmol, 3.00 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | (3-methyl-4-nitrophenyl)-(4-trifluoromethylbenzyl)-carbamic acid tert-butyl ester | 3.44 mmol, 1.41 g | C(C)(C)(C)OC(N(CC1=CC=C(C=C1)C(F)(F)F)C1=CC(=C(C=C1)[N+](=O)[O-])C)=O | C20H21F3N2O4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 20 mL | O | H2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (4-Amino-3-methylphenyl)-(4-trifluoromethylbenzyl)-carbamic acid tert-butyl ester | 1.09 g, 83% | C(C)(C)(C)OC(N(CC1=CC=C(C=C1)C(F)(F)F)C1=CC(=C(C=C1)N)C)=O | C20H23F3N2O2
